US07582773B2
Step 3: Synthesis of 4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenol.
The desired product was prepared using a procedure similar to step 4 of example 3. Thus, 3-benzyl-5-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole (0.419 g, 1.227 mmol) was reacted with BBr3 (1.5 ml of a 1M solution in CH2Cl2) to give the product (0.329 g, 1.004 mmol, 82%) as an off-white solid, dec. 129-133° C. 1H NMR (DMSO-d6) δ 2.35 (s, 3H), 3.62 (s, 3H), 4.01 (s, 2H), 6.75 (d, J=8.7 Hz, 2H), 7.04-7.09 (m, 1H), 7.15-7.22 (m, 5H), 7.31-7.37 (m, 3H), 7.47 (d, J=1.5 Hz, 1H), 9.27 (s, 1H): [ESI(+)], m/z 328 (M+H)+.

reactant | 3-benzyl-5-(4-methoxy-phenyl)-1,2-dimethyl-1H-indole | 1.227 mmol, 0.419 g | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)OC)C)C | C24H23NO
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(3-Benzyl-1,2-dimethyl-1H-indol-5-yl)-phenol | C(C1=CC=CC=C1)C1=C(N(C2=CC=C(C=C12)C1=CC=C(C=C1)O)C)C | C23H21NO
